*Example circuit

v1 5 0 2
v2 3 2 0.2
v3 7 6 2
r1 1 5 1.5 
r2 1 12 1
r3 5 2 50
r4 5 6 0.1
r5 2 6 1.5
r6 3 4 0.2
r7 7 0 1e3
r8 4 0 10
i1 4 7 1e-3
i2 0 6 1e-3
c1 7 0 0.1
c2 2 0 0.2
l1 12 2 0.1

*.OPTIONS SPD

.dc v1 0 3 0.01
.plot v(4)

*.dc i1 1e-3 3 0.01
*.plot v(4)

